Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Morphine / Aspirin / gabapentin / Zolpidem
 
Attending: ___.
 
Chief Complaint:
Diffuse weakness and muscle pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with PMHx Afib on coumadin, severe OA and chronic joint pain 
(shoulders, hands, hips, knees, elbows), CHF, severe lower 
extremity lyphedema, and CKD who presented with worsening pain 
not controlled by PO Dilaudid. At baseline she has severe pain 
of her lower extremities from arthritis and lymphedema. Last 
night the pain became slowly more severe. She took one Dilaudid 
last night and once this morning wihout relief. She has not had 
recent falls or trauma to any of her extremities. Her legs are 
not more swollen than normal. No fevers but feels cold here in 
the ED. She is relatively immobile at baseline, but walks around 
at home with a walker when she is able.  

In the ED, initial VS were 99.6 138/50 68 16 95/RA. UA was 
negative. No labs were drawn. The patient received a total of 
5mg IV hydromorphone with minimal pain relief. She was 
transferred to the floor for further pain management.

Transfer VS were 98.4 169/65 68 20 93/RA.
On arrival to the floor, patient reports ongoing pain all over.  

 
Past Medical History:
1. Status post CVA ___ superior cerebellar infarct:  
residual deficits-slight imbalance, uses cane.  
2. Hyperparathyroidism; PTH 173 in ___ etiology  
3. Hypertension.  
4. Thyroid nodules and multinodular goiter-discovered  
incidentally on MRI scan at time of her CVA in ___. Never had 
 
work up for these.  
5. Atrial fibrillation, highly symptomatic. Rate controlled and  

on Coumadin. Two prior failed attempts at direct current  
cardioversion ___ and ___. Followed by Dr. ___ who is  

considering pulmonary vein isolation procedure.  
6. Vitamin D deficiency.  
7. Chronic diastolic heart failure, followed by Dr. ___.  
9. Anemia  
10. Hypercholesterolemia  
11. Obesity  
12. Insomnia  
13. Constipation.  
14. ?Diabetes mellitus, not on therapy; ___ Hgb 1Ac: 6.6,  
15. Chronic kidney disease stage III - baseline creatinine  2.0- 
2.1  
16. Per patient report, GI bleed after aspirin, no EGD.  
 
Social History:
___
Family History:
Mother with HTN and CVA. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
-------
VS:98.4 169/65 68 20 93/RA 
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
patent nares, MMM, good dentition, nontender supple neck, no 
LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: Unable to assess, patient uncooperative with exam.
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: 3+ bilateral lower extremity edema. Patient 
uncooperative exam, states the even feather touch causes extreme 
pain.
PULSES: Unable to assess. 
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
 
DISCHARGE PHYSICAL EXAM: 
=================
VS: 98.1 175/61 57 28 9 7% RA
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
patent nares, MMM, good dentition, nontender supple neck, no 
LAD, no JVD  
CARDIAC: RRR, prominent IV/VI murmur radiating to the carotids, 
no murmurs, gallops, or rubs  
LUNG: Unable to assess, patient uncooperative with exam.
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: Edema in ___ feet, 1+ edema in legs. Pt with 
tenderness on palpation of ankles bilaterally, knees 
bilaterally, shoulders bilaterally, but much improved compared 
to prior. no errthyema of joints.
PULSES: Unable to assess. 
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
 
Pertinent Results:
ADMISSION LABS:
-------
___ 08:45PM BLOOD WBC-11.4* RBC-2.77* Hgb-9.0* Hct-28.2* 
MCV-102* MCH-32.4* MCHC-31.9 RDW-16.2* Plt ___
___ 08:45PM BLOOD Neuts-81.9* Lymphs-8.9* Monos-7.3 Eos-1.5 
Baso-0.4
___ 08:45PM BLOOD ___ PTT-35.9 ___
___ 08:45PM BLOOD Glucose-140* UreaN-55* Creat-1.6* Na-144 
K-3.6 Cl-104 HCO3-30 AnGap-14

*****
___ 08:45PM BLOOD CK(CPK)-829*
___ 09:00PM BLOOD CRP-256.0*
___ 09:00PM BLOOD ESR-112*
****

___ 08:05AM BLOOD LD(LDH)-219 CK(CPK)-25*
___ 06:45AM BLOOD HBsAg-NEGATIVE HBsAb-NEGATIVE
___ 02:47PM BLOOD ANCA-NEGATIVE B
___ 08:05AM BLOOD CRP-72.8*
___ 06:45AM BLOOD ___ * Titer-1:40
___ 06:45AM BLOOD RheuFac-21* CRP-258.6*
___ 06:45AM BLOOD PEP-NO SPECIFI IgG-547* IgA-167 IgM-58 
IFE-NO MONOCLO
___ 06:45AM BLOOD HCV Ab-NEGATIVE
___ 08:05AM BLOOD ESR-126*
___ 08:05AM BLOOD Lupus-NEG

IMAGING:
------
PLAIN FILMS OF BILATERAL HANDS ___

Right:
Mild degenerative changes in the distal interphalangeal joints 
in the right
hand are worse in the fourth digit.  There are mild degenerative 
changes in
the first carpometacarpal joint with decreasing the 
intervertebral disc space,
osteophyte and sclerosis of the joint surfaces at these levels.  
There is mild
osteopenia.  
 
Left:
There is no evidence of fracture or dislocation in the left 
hand. Mild
degenerative changes in the distal interphalangeal joints are 
worse in the
fourth digit.  There is no evidence of dislocation at these 
level.  There is
decrease in the joint spaces and osteophytes.  There is mild 
osteopenia. 
There are no blastic lesions.  There is fracture of the styloid 
of the ulna. 
There pisiform seems located more superior and laterally in one 
of the
projections, but most likely is due to the projection.  Please 
correlate with
clinical symptoms.

PLAIN FILMS OF BIALTERAL KNEES ___
FINDINGS:  In comparison with study of ___, there is little 
overall change in
the bilateral tricompartmental hypertrophic spurring, primarily 
affecting the
lateral areas with prominent spurring and some generalized 
narrowing of the
medial and lateral compartments.  No evidence of appreciable 
joint effusion.

TTE ___
The left atrial volume index is moderately increased. No atrial 
septal defect is seen by 2D or color Doppler. The estimated 
right atrial pressure is ___ mmHg. Mild symmetric left 
ventricular hypertrophy with normal wall thickness, cavity size, 
and global systolic function (biplane LVEF = 60 %). Tissue 
Doppler imaging suggests an increased left ventricular filling 
pressure (PCWP>18mmHg). Right ventricular chamber size and free 
wall motion are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion. There is a 
minimally increased gradient consistent with minimal aortic 
valve stenosis. No aortic regurgitation is seen. The mitral 
valve appears structurally normal with trivial mitral 
regurgitation. There is moderate pulmonary artery systolic 
hypertension. There is no pericardial effusion. 

IMPRESSION: Minimal aortic valve stenosis. Normal biventricular 
regional/global systolic function. Elevated left ventricular 
enddiastolic pressure. Moderate pulmonary hypertension.

Compared with the prior study (images reviewed) of ___, 
the peak aortic velocity has mildly increased from 1.5 m/s to 
2.1 m/s however the severity of the aortic stenosis still 
remains minima

MICROBIOLOGY: 
==========
___ Urine Culture: no growth

___ Blood Culture: one out of 4 bottles positive
Blood Culture, Routine (Preliminary): 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE. 
         Isolated from only one set in the previous five days. 
         SENSITIVITIES PERFORMED ON REQUEST..

___ Blood Cultures: Pending

DISCHARGE LABS: 
===========
___ 06:50AM BLOOD WBC-11.8* RBC-2.85* Hgb-9.2* Hct-28.6* 
MCV-100* MCH-32.4* MCHC-32.3 RDW-15.6* Plt ___
___ 06:50AM BLOOD Plt ___
___ 06:50AM BLOOD ___ PTT-32.9 ___
___ 06:50AM BLOOD Glucose-136* UreaN-111* Creat-2.2* Na-138 
K-3.8 Cl-93* HCO3-32 AnGap-___ with PMHx Afib on coumadin, diastolic heart failure, severe 
OA and chronic joint pain (shoulders, hands, hips, knees, 
elbows), CHF, severe lower extremity lyphedema, and CKD who 
presented with worsening pain of unclear etiology. 

ACTIVE ISSUES:
---------
# ACUTE ON CHRONIC BILATERAL LOWER EXTREMITY PAIN: INTERVAL 
IMPROVED. Likely due to polymyositis, given proximal muscle 
weakness, diffuse myalgias, and elevated CK. 
Alternate/additional etiologies include 1)inflammatory 
arthritis; 2) PMR, which is also possible given exquisite 
weakness; 3) fibromyalgia.
- Continue prednisone 15mg DAILY (___) for polymyositis.
- Trend ESR, CRP, CK.
- RF weakly positive, 21. 
- CCP PND.
- Follow up ___.
- Follow up bilateral hand X-rays 
- Increase Allopurinol to 200mg PO daily
- Hydromorphone PO ___ q6 PRN 
- Continue standing tylenol 
- Zofran for nausea  

# AoCKD: baseline Cr 2.1. On last discharge in ___ Cr 1.5.  
Cr 1.6 on admission, trending up to 2.2 on day of discharge. 
Likely pre-renal in setting of overdiuresis. Diuretics held on 
day of discharge, with plans to resume lower dosage of diuretics 
at home (see below), with follow up of Cr by PCP as outpatient. 

# Atrial fibrillation: Rate controlled with carvedilol and dilt. 
Asymptomatic.  INR 1.9 on admission. Came in on 2.5mg warfarin 
daily. Increased to 3mg daily during hospitalization, with INR 
trending up to 3.1 on day of discharge, up from 2.6 the day 
before. Discharged on home dosage of 2.5mg daily with plans to 
follow up with ___ clinic on ___ to repeat INR and adjust 
warfarin if needed.

# BACTEREMIA: CONTAMINANT. ___ bottles positive for coagulase 
negative staph aureus.

# AS MURMUR: NO TTE EVIDENCE TO SUPPORT DECREASED ___.

# DIASTOLIC CHF: STABLE. History of diastolic CHF with preserved 
EF. On admission asymptomatic and no signs suggestion CHF 
exacerbation, other than lower extremity edema. Diureteic 
regimen had been uptitrated over past several months due to 
progressive lower extremity edema; however, after being started 
on steroids for PS3PE, lower extremity edema significantly 
improved. Due to ___, likely secondary to overaggresive diuretic 
regimen, metolazone was stopped and torsemide dosage was 
decreased to 40mg, with plans for patient to weight self daily 
and to follow up with PCP for ___ of diuretic dosing as 
needed.   

___ ISSUES:
-----------
#Hyperlipidemia: Continued home dose simvastatin.  
.  
#GERD/mild gastritis on EGD: asymptomatic. continued omeprazole 
40 mg PO Q24H  

#HTN: Continued carvedilol

TRANSITIONAL ISSUES:
------
# follow up pending rheumatologic markers, pending blood 
cultures
# started on 16mg methylprednisilone, to be followed by 
rheumatology, blood pressure, blood glucoses to be monitored 
closely 
# started on fosamax 70mg qweek for osteoperosis ppx while on 
steroids, duration of course to be determined by PCP 
# diuretics reduced due to ___, discharged on 40mg torsemide 
with a Cr of 2.1; Cr and diuretics dosing to be followed up to 
PCP
# warfarin dosing likely needs adjustment, though no changes 
were made to home regimen; to have repeat INR on ___ and follow 
up with HCA coag.
# daily weights, to call MD if > 3lb weight gain
# CODE: DNR/DNI
#  EMERGENCY CONTACT HCP: Daughter ___ (healthcare 
proxy); Phone number: ___  
Cell phone: ___  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO TID 
2. Allopurinol ___ mg PO DAILY 
3. Amiodarone 200 mg PO DAILY 
4. Calcitriol 0.25 mcg PO DAILY 
5. Carvedilol 12.5 mg PO BID 
6. Diltiazem Extended-Release 240 mg PO DAILY 
7. Docusate Sodium 100 mg PO BID 
8. Fluticasone Propionate 110mcg 2 PUFF IH BID 
9. Multivitamins 1 TAB PO DAILY 
10. Ranitidine 75 mg PO DAILY 
11. Simvastatin 10 mg PO DAILY 
12. Torsemide 80 mg PO DAILY 
13. Warfarin 2.5 mg PO DAILY16 
14. Bisacodyl 10 mg PO/PR DAILY:PRN Constipation 
15. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain 
16. Polyethylene Glycol 17 g PO DAILY:PRN Constipation 
17. Clobetasol Propionate 0.05% Ointment 1 Appl TP BID 
18. ferrous sulfate 95  mg Oral Daily 
19. Metolazone 2.5 mg PO DAILY 
20. Vitamin D 1000 UNIT PO DAILY 
21. Calcium Carbonate 1500 mg PO BID 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
RX *allopurinol ___ mg 2 tablet(s) by mouth daily Disp #*60 
Tablet Refills:*0
2. Acetaminophen 1000 mg PO Q8H 
3. Amiodarone 200 mg PO DAILY 
4. Bisacodyl 10 mg PO/PR DAILY:PRN Constipation 
5. Calcitriol 0.25 mcg PO DAILY 
6. Carvedilol 12.5 mg PO BID 
7. Diltiazem Extended-Release 240 mg PO DAILY 
8. Docusate Sodium 200 mg PO DAILY 
9. Fluticasone Propionate 110mcg 2 PUFF IH BID 
10. HYDROmorphone (Dilaudid) ___ mg PO Q6H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth q6hrs 
Disp #*28 Tablet Refills:*0
11. Polyethylene Glycol 17 g PO DAILY:PRN Constipation 
12. Methylprednisolone 16 mg PO DAILY 
RX *methylprednisolone 16 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
13. Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice a day Disp 
#*60 Tablet Refills:*0
14. Calcium Carbonate 1500 mg PO BID 
15. Clobetasol Propionate 0.05% Ointment 1 Appl TP BID 
16. Ferrous Sulfate 95 mg ORAL DAILY 
17. Multivitamins 1 TAB PO DAILY 
18. Vitamin D 1000 UNIT PO DAILY 
19. Ranitidine 75 mg PO DAILY 
20. Simvastatin 10 mg PO DAILY 
21. Torsemide 40 mg PO DAILY 
22. Alendronate Sodium 70 mg PO QSUN 
RX *alendronate 70 mg 1 tablet(s) by mouth q weekly Disp #*4 
Tablet Refills:*0
23. Warfarin 2.5 mg PO DAILY16 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
-------
remitting seronegative symmetric synovitis with pitting edema 
(rs3pe )

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure caring for you at ___. You were admitted for 
muscle weakness and multiple joint pain. You were diagnosed with 
RS3PE. You were started on a steroid, methylprednisilone which 
you will continue as an outpatient. You will have close follow 
up with your rheumatologist.  

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

Also, do not exceed 4g of tylenol per day. 
 
Followup Instructions:
___